* ============================================================
* Injector drive -- why the boost converter exists
* ECU pins 03/05 (high side), 73/07/29 (low side)
* ============================================================
* This is the circuit that justifies the most expensive stage on
* the board, so the justification should be measurable rather
* than asserted.
*
* A common-rail solenoid injector is an inductor with resistance.
* Current through it cannot change instantly: di/dt = V/L. The
* needle does not lift until current reaches the peak threshold,
* so the time spent getting there is time the injector is
* energised but not injecting -- pure dead time, and it sits in
* series with every injection event.
*
* Injector model, mid-range of the envelope in research memo 04:
*     L = 200 uH, R = 0.5 ohm, peak threshold 18 A
*
* Two drives are compared:
*     battery   13.5 V  -- what you get with no boost stage
*     boost    100.0 V  -- the memo 04 envelope, ~65-115 V
*
* Both are run open-loop to the point where current reaches 18 A.
* The ratio between those two times is the entire argument for
* the boost converter, and at 1500 rpm it has to be set against
* an injection duration of roughly 1-3 ms.
* ============================================================

* ---- driven from battery, no boost ----
Vbat b 0 DC 13.5
Lb   b  bm 200u
Rb   bm 0  0.5

* ---- driven from the boost rail ----
Vbst c 0 DC 100
Lc   c  cm 200u
Rc   cm 0  0.5

.control
tran 100n 800u uic
wrdata injector_boost.dat i(Vbat) i(Vbst)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE -- this block models turn-ON only
* ------------------------------------------------------------
* Proved here: the time to reach the peak current threshold from
* a battery rail versus a boost rail, and therefore why the boost
* stage is worth its cost.
*
* NOT modelled, and it is the larger half: TURN-OFF. This netlist
* ramps current up and stops. Interrupting 18 A in 200 uH releases
* about 32 mJ, roughly seven times what the relay coil in
* relay_driver.cir stores -- and that block exists specifically to
* show what happens to a switch with nowhere to put that energy.
* The injector does this every injection event, thousands of times
* a minute. The recirculation and clamp path is a real circuit
* that this project has not yet drawn or simulated.
*
* Also not modelled:
*   - Magnetic saturation. Injector inductance falls sharply as
*     the core saturates and as the needle lifts, so a real
*     current ramp is faster than this constant-L model near the
*     top, and the 38 us figure is conservative.
*   - The needle actually moving. This is an electrical model of
*     a solenoid, with no mechanical dynamics and no back-EMF
*     from armature motion.
*   - The envelope itself is family-wide, from research memo 04,
*     not this injector's measured values. That is U5.
*
* TOLERANCE -- the binding parameter would be the injector coil's
* own L (a power inductor's worth of tolerance is not really
* applicable here since the coil IS the load, not a chosen part,
* but treat +/-20% as the stand-in for how much the "typical" 200 uH
* figure could be off for a real part). Not re-run in SPICE: the
* two times being compared (t_bat, t_bst) both use the SAME coil
* model, so for the RL step response t = (L/R)*ln(V/(V-I_th*R)),
* the L/R factor is identical in both branches and cancels exactly
* in their ratio. The "boost is faster by 11.6x" claim -- the
* entire argument this block exists to make -- is therefore
* invariant to the coil's L/R tolerance by construction, not merely
* numerically robust to it. The two individual times (439 us, 38 us)
* DO move with L/R tolerance, proportionally, but nothing here gates
* a pass/fail threshold on either one alone.
* ------------------------------------------------------------
